US07399505B2
A solution of 11 mmol of n-butyllithium (1.6 M solution in hexane) in 20 ml of dry tetrahydrofuran was cooled to ≦−70° C. and admixed dropwise under a protective gas atmosphere with a solution of 11 mmol of potassium tert-butoxide in 12 ml of the same solvent. After stirring for 15-30 min, a solution of 2.8 g of 3,4,5-trifluoro-6-methoxyphenanthrene in 20 ml of tetrahydrofuran was added dropwise in such a way that the internal temperature was always below −70° C. Subsequently, stirring was continued at this temperature for 2 h. 2.5 g of 1-bromopropane were then added slowly and the mixture was subsequently brought slowly to −10° C. It was admixed at −10° C. with 6 ml of water and acidified to pH 1 with concentrated hydrochloric acid. 100 ml of tert-butyl methyl ether were added, the phases were separated, and the organic phase was washed with saturated sodium chloride solution and dried over sodium sulfate. The solvents were removed under reduced pressure, and the residue was chromatographed using silica gel with 9:1 (v/v) heptane/ethyl acetate. The product-containing fractions were combined, the solvent was distilled off under reduced pressure and the residue was recrystallized from acetonitrile. 1.1 g of 3,4,5-trifluoro-6-methoxy-2-propylphenanthrene were obtained.

reactant | n-butyllithium | 11 mmol, 1.6 M | C(CCC)[Li]
reactant | potassium tert-butoxide | 11 mmol | CC(C)([O-])C.[K+]
reactant | 3,4,5-trifluoro-6-methoxyphenanthrene | 2.8 g | FC=1C=CC=2C=CC3=CC=C(C(=C3C2C1F)F)OC | C15H9F3O
reactant | 1-bromopropane | 2.5 g | BrCCC | C3H7Br
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tert-butyl methyl ether | 100 ml | COC(C)(C)C | C5H12O
solvent | water | 6 ml | O | H2O
product | 3,4,5-trifluoro-6-methoxy-2-propylphenanthrene | 1.1 g | FC=1C(=CC=2C=CC3=CC=C(C(=C3C2C1F)F)OC)CCC | C18H15F3O
